US04851526
4-(1H-Imidazole-1-yl)-N-propylbenzenamine
In a manner similar to Preparation 8, react propanaldehyde with 4-(1H-imidazol-1-yl)benzenamine to obtain the title compound.

reactant | propanaldehyde | C(CC)=O | C3H6O
reactant | 4-(1H-imidazol-1-yl)benzenamine | N1(C=NC=C1)C1=CC=C(C=C1)N | C9H9N3
product | 4-(1H-Imidazole-1-yl)-N-propylbenzenamine | N1(C=NC=C1)C1=CC=C(C=C1)NCCC | C12H15N3
